US05856503
0.1 g of (RS)-allyl-[6-[1-(4-bromo-phenyl)-1,2,3,4-tetra-hydro-isoquinolin-6-yloxy]-hexyl]-methyl-amine (Ex. 21) is taken up in 2 ml of a 1M NaH2PO3 solution and treated with 2 ml of dioxan as a solubilizer. After the addition of 2 ml of a 37% aqueous formaldehyde solution the mixture is heated to 65° C. for 48 hrs. For the working-up, the mixture is adjusted to pH >12 with 4M aqueous sodium hydroxide solution and extracted with ethyl acetate. After evaporation of the extracts and chromatography of the residue (silica gel, toluene/acetone/triethylamine, 25:74:1) there is obtained 0.12 g of (RS)-allyl-[6-[1-(4-bromo-phenyl)-2-methyl-1,2,3,4-tetrahydro-isoquinolin-6-yloxy]-hexyl]-methyl-amine which is converted into its hydrochloride, MS: m/e 471 (M+H+, 1 Br).

reactant | (RS)-allyl-[6-[1-(4-bromo-phenyl)-1,2,3,4-tetra-hydro-isoquinolin-6-yloxy]-hexyl]-methyl-amine | 0.1 g | C(C=C)N(C)CCCCCCOC=1C=C2CCNC(C2=CC1)C1=CC=C(C=C1)Br | C25H33BrN2O
reactant | formaldehyde | C=O | CH2O
reactant | sodium hydroxide | 4M | [OH-].[Na+]
solvent | dioxan | 2 ml | O1CCOCC1 | C4H8O2
product | (RS)-allyl-[6-[1-(4-bromo-phenyl)-2-methyl-1,2,3,4-tetrahydro-isoquinolin-6-yloxy]-hexyl]-methyl-amine | 0.12 g | C(C=C)N(C)CCCCCCOC=1C=C2CCN(C(C2=CC1)C1=CC=C(C=C1)Br)C | C26H35BrN2O
